US09303033B2
To 5 tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (650 mg, 1.93 mmol) in 14 mL of a 2:1 mixture of 1,2-dimethoxyethane/EtOH was added 3-hydroxyphenyl boronic acid (399 mg, 2.89 mmol), tetrakis(triphenylphosphine)palladium(0) (112 mg, 0.096 mmol), and 2M aqueous solution of Na2CO3 (2.9 mL, 5.79 mmol). The mixture was stirred at 85° C. for 1 h. The volatiles were removed by rotary evaporation and the residue was purified by silica gel chromatography (0%-30% EtOAc/Hexanes) to provide 400 mg of tert-butyl cyclopropyl(3-formyl-5-(3-hydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)carbamate. (52%). LCMS (M+1=395)

reactant | tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 1.93 mmol, 650 mg | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C15H17ClN4O3
reactant | 3-hydroxyphenyl boronic acid | 2.89 mmol, 399 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | Na2CO3 | 5.79 mmol, 2.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.096 mmol, 112 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane EtOH | COCCOC.CCO
product | tert-butyl cyclopropyl(3-formyl-5-(3-hydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)carbamate | 400 mg | C1(CC1)N(C(OC(C)(C)C)=O)C1=CC(=NC=2N1N=CC2C=O)C2=CC(=CC=C2)O | C21H22N4O4
